US06362211B1
a) 2-Acetyl-2-benzyl-3,4-dihydro-2H-naphthalen-1-one
2-Acetyl-1-tetralone (5.0 g) was added into a mixture of potassium carbonate (3.8 g) and acetonitrile (60 ml). The mixture was stirred at 60° C. for 30 minutes and benzyl chloride was added and the stirring was continued at 60° C. for 5 hours. The mixture was filtered and evaporated. The yield was 7.2 g and was used for further reactions without purification.

reactant | 2-Acetyl-1-tetralone | 5.0 g | C(C)(=O)C1C(C2=CC=CC=C2CC1)=O | C12H12O2
reactant | potassium carbonate | 3.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 2-Acetyl-2-benzyl-3,4-dihydro-2H-naphthalen-1-one | C(C)(=O)C1(C(C2=CC=CC=C2CC1)=O)CC1=CC=CC=C1 | C19H18O2
